US08168667B2
1-(3,4-dichlorophenyl)-3-(4-hydroxy-2-butynyl)-4-(4-hydroxyphenyl)-4-methylimidazolidine-2,5-dione
500 mg 4-[1-(3,4-dichlorophenyl)-2,5-dioxo-4-(4-hydroxyphenyl)-4-methylimidazolidin-3-yl]-2-butynyl acetate (the product of Example 223) are dissolved in 10 mL of a 2 N ethanol/HCl mixture (70/30). The mixture is stirred under reflux for 3 hours then concentrated and dried under vacuum. 400 mg of a white solid are obtained (Yd=99%).

reactant | 4-[1-(3,4-dichlorophenyl)-2,5-dioxo-4-(4-hydroxyphenyl)-4-methylimidazolidin-3-yl]-2-butynyl acetate | 500 mg | C(C)(=O)OCC#CCN1C(N(C(C1(C)C1=CC=C(C=C1)O)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C22H18Cl2N2O5
solvent | ethanol HCl | 2 N | C(C)O.Cl
product | 1-(3,4-dichlorophenyl)-3-(4-hydroxy-2-butynyl)-4-(4-hydroxyphenyl)-4-methylimidazolidine-2,5-dione | 400 mg | ClC=1C=C(C=CC1Cl)N1C(N(C(C1=O)(C)C1=CC=C(C=C1)O)CC#CCO)=O | C20H16Cl2N2O4
